US04833150
A. N-(3-hydroxypropyl)phthalimide
A solution of 18.95 g (0.25 mo.) of 3-aminopropanol and 37.0 g (0.25 mol) of phthalic anhydride in 25 ml of dry toluene was refluxed for three hours using a Dean-Stark apparatus. The mixture was cooled, concentrated in vacuo, dissolved in dichloromethane and washed with water. The evaporated organic phase was dried over magnesium sulfate, concentrated in vacuo, and distilled at 183°-184° C. (0.1 mm Hg) to give 28.18 g (55%) of a white solid; m.p. 75°-77° C.; NMR: (CDCl3) δ 1.9 (2H,q), 3.65 (5H,m), 7.6 (4H,s).

reactant | 3-aminopropanol | 18.95 g | NCCCO | C3H9NO
reactant | phthalic anhydride | 0.25 mol, 37.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-hydroxypropyl)phthalimide | 28.18 g, 55% | OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H11NO3
